US04607053
A. 4-(4-Phenylbutyl)-N-(tetrahydropyran-2-yloxy)benzamide
To a 0° C. solution of 4-(4-phenylbutyl)benzoic acid (700 mg, 2.8 mmol) in 40 ml of CH2Cl2 under argon was added tetrahydropyranyl hydroxylamine (H2N-OTHP) (654 mg, 2.0 eq.), 1-hydroxybenzotriazole (HOBt) (460 mg, 1.2 eq.), N,N'-dicyclohexylcarbodiimide (700 mg, 1.2 eq.) sequentially. After 0.5 hour at 0° the solution was allowed to warm to room temperature and stir under argon for 4 hours. The solution was filtered, concentrated in vacuo to yield a white solid which was chromatographed on LPS-1 silica gel eluting with 6:4 hexane/EtOAc. Product containing fractions were evaporated to give title compound, an oil 1.0 g (~100%).

reactant | 4-(4-phenylbutyl)benzoic acid | 2.8 mmol, 700 mg | C1(=CC=CC=C1)CCCCC1=CC=C(C(=O)O)C=C1 | C17H18O2
reactant | tetrahydropyranyl hydroxylamine | 654 mg, 2.0 eq. | O1C(CCCC1)NO | C5H11NO2
reactant | 1-hydroxybenzotriazole | 460 mg, 1.2 eq. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N'-dicyclohexylcarbodiimide | 700 mg, 1.2 eq. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Phenylbutyl)-N-(tetrahydropyran-2-yloxy)benzamide | C1(=CC=CC=C1)CCCCC1=CC=C(C(=O)NOC2OCCCC2)C=C1 | C22H27NO3
